US06448242B1
Preparation of 1,3-bis[1-[4-(3,4,5-trimethoxyphenyl)benzoyl]-4-piperidinyl]-2-[(dimethylamino)methyl]propane hydrochloride
Concentrated hydrochloric acid (0.020 ml; 0.24 mmol) was added to a solution of 1,3-bis[1-[4-(3,4,5-trimethoxyphenyl)benzoyl]-4-piperidinyl]-2-[(dimethylamino)methyl]propane (62 mg) in ethanol (5 ml) and the reaction mixture was concentrated under reduced pressure. A process of adding ethanol (10 ml) to the residue and concentrating the mixture under reduced pressure was performed twice to obtain the title compound as a pale yellow amorphous powder.

reactant | hydrochloric acid | 0.24 mmol, 0.020 ml | Cl | ClH
reactant | 1,3-bis[1-[4-(3,4,5-trimethoxyphenyl)benzoyl]-4-piperidinyl]-2-[(dimethylamino)methyl]propane | 62 mg | COC=1C=C(C=C(C1OC)OC)C1=CC=C(C(=O)N2CCC(CC2)CC(CC2CCN(CC2)C(C2=CC=C(C=C2)C2=CC(=C(C(=C2)OC)OC)OC)=O)CN(C)C)C=C1 | C48H61N3O8
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1,3-bis[1-[4-(3,4,5-trimethoxyphenyl)benzoyl]-4-piperidinyl]-2-[(dimethylamino)methyl]propane hydrochloride | Cl.COC=1C=C(C=C(C1OC)OC)C1=CC=C(C(=O)N2CCC(CC2)CC(CC2CCN(CC2)C(C2=CC=C(C=C2)C2=CC(=C(C(=C2)OC)OC)OC)=O)CN(C)C)C=C1 | InChI=1S/C48H61N3O8.ClH/c1-49(2)31-34(25-32-17-21-50(22-18-32)47(52)37-13-9-35(10-14-37)39-27-41(54-3)45(58-7)42(28-39)55-4)26-33-19-23-51(24-20-33)48(53)38-15-11-36(12-16-38)40-29-43(56-5)46(59-8)44(30-40)57-6;/h9-16,27-30,32-34H,17-26,31H2,1-8H3;1H
